US07576135B2
5,6,7,8-tetrahydro[1,6]naphthyridine-2-carbonitrile hydrochloride
2-Cyano-7,8-dihydro-5H-[1,6]naphthyridine-6-carboxylic acid tert-butyl ester (WO00/09480) (3.74 g) was dissolved in methylene chloride (5.0 mL). 4N HCl-dioxane solution (14 mL) was added thereto. The resultant mixture was stirred at room temperature for 65 minutes, and stirred at 40° C. for 40 minutes. 4N HCl-dioxane solution (8 mL) was further added to the reaction mixture, followed by stirring at 45° C. for 75 minutes. Ethyl acetate was added to the reaction mixture, and the precipitated powder was recovered by filtration, to thereby give the title compound (3.20 g) as a colorless powder.

reactant | 2-Cyano-7,8-dihydro-5H-[1,6]naphthyridine-6-carboxylic acid tert-butyl ester | 3.74 g | C(C)(C)(C)OC(=O)N1CC=2C=CC(=NC2CC1)C#N | C14H17N3O2
reactant | HCl dioxane | 4N, 14 mL | Cl.O1CCOCC1
reactant | HCl dioxane | 4N, 8 mL | Cl.O1CCOCC1
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 5,6,7,8-tetrahydro[1,6]naphthyridine-2-carbonitrile hydrochloride | 3.20 g | Cl.N1=C(C=CC=2CNCCC12)C#N | InChI=1S/C9H9N3.ClH/c10-5-8-2-1-7-6-11-4-3-9(7)12-8;/h1-2,11H,3-4,6H2;1H
